US05017604
A solution of 2-methyl-3-nitrobenzoic acid (10.0 g, 55.2 mmol) and carbonyldiimidazole (13.4 g, 82.8 mmol) in tetrahydrofuran (200 mL) is stirred at room temperature for 2 hours under an argon atmosphere. The magnesium salt of malonic acid monoethyl ester (47.4 g, 165 mmol) is added and the reaction mixture is heated at reflux for 18 hours. The reaction mixture is quenched with water (200 mL) and acidified to pH=1 with concentrated HCl. The product is extracted into ethyl acetate and washed with 1.0 N HCl, saturated aqueous sodium bicarbonate, and brine. The organic layer is dried over magnesium sulfate and evaporated. Recrystallization of the residue gives ethyl 2-methyl-3-nitro-β-oxobenzenepropanoate (10.6 g, 76%), mp=50-51° C.

reactant | 2-methyl-3-nitrobenzoic acid | 55.2 mmol, 10.0 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | carbonyldiimidazole | 82.8 mmol, 13.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monoethyl ester | 165 mmol, 47.4 g | C(C)OC(CC(=O)O)=O | C5H8O4
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | ethyl 2-methyl-3-nitro-β-oxobenzenepropanoate | 10.6 g, 76% | CC1=C(C=CC=C1[N+](=O)[O-])C(CC(=O)OCC)=O | C12H13NO5
